US08580841B2
Step B: Preparation of 3-Cyano-4-(trifluoromethoxy)benzoic Acid.
3-Bromo-4-(trifluoromethoxy)benzoic acid (1.4 g, 4.91 mmol) and cyanocopper (0.572 g, 6.39 mmol) were mixed in N-methyl-2-pyrrolidinone (NMP) (14 mL). The mixture was heated in a microwave at 200° C. for 2 h. The reaction was diluted with dichloromethane (150 mL). Celite® was added and the mixture was stirred vigorously for 10 min. The solids were removed by filtration. The organic layer was washed with water (125 mL) and concentrated. The residue was purified by HPLC to give the title compound as an off-white solid (0.979 g). LCMS m/z=232.3 [M+H]+.

reactant | 3-Bromo-4-(trifluoromethoxy)benzoic acid | 4.91 mmol, 1.4 g | BrC=1C=C(C(=O)O)C=CC1OC(F)(F)F | C8H4BrF3O3
reactant | cyanocopper | 6.39 mmol, 0.572 g | C(#N)[Cu]
solvent | N-methyl-2-pyrrolidinone | 14 mL | CN1C(CCC1)=O | C5H9NO
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 3-Cyano-4-(trifluoromethoxy)benzoic Acid | 0.979 g | C(#N)C=1C=C(C(=O)O)C=CC1OC(F)(F)F | C9H4F3NO3
